US08293913B2
0.367 g of 8-(5-benzyl-1H-pyrrolo[3,4-c]pyridin-2(3H,3aH,4H,5H,6H,7H,7aH)-yl)-3-(3-fluorophenylsulfonyl)quinoline were prepared by analogy to the method of Example 27 by coupling of 3-(3-fluorophenylsulfonyl)-8-iodoquinoline with 5-benzyloctahydro-1H-pyrrolo[3,4-c]pyridine-2,5-diium chloride

reactant | 3-(3-fluorophenylsulfonyl)-8-iodoquinoline | FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)I | C15H9FINO2S
reactant | 5-benzyloctahydro-1H-pyrrolo[3,4-c]pyridine-2,5-diium chloride | [Cl-].C(C1=CC=CC=C1)[NH+]1CC2C(CC1)C[NH2+]C2.[Cl-]
product | 8-(5-benzyl-1H-pyrrolo[3,4-c]pyridin-2(3H,3aH,4H,5H,6H,7H,7aH)-yl)-3-(3-fluorophenylsulfonyl)quinoline | 0.367 g | C(C1=CC=CC=C1)N1CC2C(CC1)CN(C2)C=2C=CC=C1C=C(C=NC21)S(=O)(=O)C2=CC(=CC=C2)F | C29H28FN3O2S
